US04963566
5-Methoxy-2-chlorobenzimidazole (0.55 g), thiourea (0.2 g) and ethanol (10 ml) were refluxed for 2 hours. To the reaction mixture was added a solution of 1-methyl-8-chloromethyl-1,2,3,4-tetrahydroquinoline hydrochloride (0.51 g) and sodium hydroxide (0.3 g) in water (5 ml) and the mixture was refluxed for 5 hours. After completion of the reaction, ethanol was distilled off and water was added to the resulting residue, and the mixture was extracted with chloroform. After drying over anhydrous magnesium sulfate, chloroform was distilled off. The resulting residue was purified by silica gel column chromatography [eluent:n-hexane-ethyl acetate (4:1)] to give 8-(5-methoxy-2-benzimidazolyl)thiomethyl-1-methyl-1,2,3,4-tetrahydroquinoline (0.62 g).

reactant | 5-Methoxy-2-chlorobenzimidazole | 0.55 g | COC1=CC2=C(N=C(N2)Cl)C=C1 | C8H7ClN2O
reactant | thiourea | 0.2 g | NC(=S)N | CH4N2S
reactant | 1-methyl-8-chloromethyl-1,2,3,4-tetrahydroquinoline hydrochloride | 0.51 g | Cl.CN1CCCC2=CC=CC(=C12)CCl
reactant | sodium hydroxide | 0.3 g | [OH-].[Na+]
solvent | water | 5 ml | O | H2O
solvent | ethanol | C(C)O | C2H6O
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 8-(5-methoxy-2-benzimidazolyl)thiomethyl-1-methyl-1,2,3,4-tetrahydroquinoline | 0.62 g | COC1=CC2=C(N=C(N2)SCC=2C=CC=C3CCCN(C23)C)C=C1 | C19H21N3OS
